US04374829
A solution of L-alanyl-L-proline (0.35 g) and ethyl 4-(3-indolyl)-2-oxobutyrate (1.0 g) in 30 ml of ethanol was hydrogenated with 10% Pd on carbon in the presence of 3.2 g of powdered molecular sieves (4A) under 40 lbs of hydrogen pressure. After the reaction was complete the slurry was filtered and the filtrate concentrated to dryness. The residual oil was dissolved in 5 ml of methanol and chromatographed on a Sephadex LH-20 column to yield 0.67 g of crude product as an orange oil. A portion of the crude (0.3 g) was purified by solution in water and extraction with ether. Product was recovered by dilution of the aqueous phase with an equal volume of saturated NaCl solution and extraction with ethyl acetate to yield 80 mg of (N-[1-ethoxycarbonyl-3-(3-indolyl)propyl]-L-alanyl-L-proline as a yellow oil. Mass spectral analysis showed peaks at 559 for the di-silylated product and at 631 for the tri-silylated product.

reactant | L-alanyl-L-proline | 0.35 g | N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C8H14N2O3
reactant | ethyl 4-(3-indolyl)-2-oxobutyrate | 1.0 g | N1C=C(C2=CC=CC=C12)CCC(C(=O)OCC)=O | C14H15NO3
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Pd on carbon | [Pd] | Pd
product | N-[1-ethoxycarbonyl-3-(3-indolyl)propyl]-L-alanyl-L-proline | C(C)OC(=O)C(CCC1=CNC2=CC=CC=C12)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C22H29N3O5
